US04013762
To a solution of 14 g of 19-hydroxy-17β-(1-oxopropoxy)androst-4-en-3-one in 1 liter of acetone cooled in an ice bath is added 13.3 ml of Jones reagent over 1 hour after which the reaction mixture is poured into a large volume of water and extracted with ether. The ether extract is dried over magnesium sulfate, filtered and the solvent removed. The residue is crystallized from acetone-hexane to give 3-oxo-17β(1-oxopropoxy)-androst-4-en-19-al, M.P. 119°-121° C.

reactant | 19-hydroxy-17β-(1-oxopropoxy)androst-4-en-3-one | 14 g | OC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)OC(CC)=O)=O | C22H32O4
reactant | Jones reagent | 13.3 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | water | O | H2O
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | 3-oxo-17β(1-oxopropoxy)-androst-4-en-19-al | O=C1C=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C=O)OC(CC)=O | C22H30O4
